US08440689B2
B. Methyl 2-(3-(tert-butoxycarbonylamino)propyl)-4-methyl-6-(m-tolylamino)pyrimidine-5-carboxylate
Methyl 2-(3-(tert-butoxycarbonylamino)prop-1-ynyl)-4-methyl-6-(m-tolylamino)pyrimidine-5-carboxylate (0.190 g, 0.463 mmol) was dissolved in EtOH (4 mL). To this solution was added palladium on carbon (0.049 g, 0.046 mmol) and the resulting mixture was stirred overnight at RT under H2 atmosphere. The mixture was filtered through a pad of Celite, and the filtrate was evaporated to give the title compound as a brown oil, which was used in next step without further purification. [M+H] calc'd for C22H30N4O4, 415. found, 415.

reactant | Methyl 2-(3-(tert-butoxycarbonylamino)prop-1-ynyl)-4-methyl-6-(m-tolylamino)pyrimidine-5-carboxylate | 0.463 mmol, 0.190 g | C(C)(C)(C)OC(=O)NCC#CC1=NC(=C(C(=N1)C)C(=O)OC)NC=1C=C(C=CC1)C | C22H26N4O4
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | palladium on carbon | 0.046 mmol, 0.049 g | [Pd] | Pd
product | Methyl 2-(3-(tert-butoxycarbonylamino)propyl)-4-methyl-6-(m-tolylamino)pyrimidine-5-carboxylate | C(C)(C)(C)OC(=O)NCCCC1=NC(=C(C(=N1)C)C(=O)OC)NC=1C=C(C=CC1)C | C22H30N4O4
